US06166074
Benzylidene di-(alpha-chloroacetate)
Benzaldehyde (10.0 g, 0.094 mol) and chloroacetic acid anhydride (16.1 g, 0.094 mol) were dissolved in carbontetrachloride (50 ml) under N2 atmosphere. Nafion NR 50 (240 mg) was added and the reaction mixture stirred at 35° C. over night. An additional amount of benzaldehyde (5.0 g) and catalyst (120 mg) was added and the reaction continued for several days. The catalyst was filtered off and the filtrate evaporated. The residue was distilled under reduced pressure (B.p. 123-125° C./0.1 mbar) giving a slightly yellow oil, which solidified upon standing. The yield was 7.9 g, 30% of the theoretical. 1H NMR (CDCl3), d (ppm) rel. to TMS: 7.75 (s, 1H, CH(OCO--)2), 7.57-7.41 (m, 2+3H, Ar-H) and 4.14 (d, 4H CH2Cl).

reactant | Benzaldehyde | 0.094 mol, 10.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | chloroacetic acid anhydride | 0.094 mol, 16.1 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | benzaldehyde | 5.0 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | carbontetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Benzylidene di-(alpha-chloroacetate) | ClCC(=O)OC(C1=CC=CC=C1)OC(CCl)=O | C11H10Cl2O4
